******** Transient Voltage Suppressor Model ********
** Product Name: SA15(C)A
** Package: DO-15
**--------------------------------------------------
* Node:      Anode Cathode
.SUBCKT SA15A  7     1
D1 2 1   MDD1
.MODEL MDD1 D 
+ IS=1.83708e-14     N=1         XTI=1       RS=0.2
+ CJO=1600e-12       TT=5e-10
RL 1 2 MDR 1.500e7
.MODEL MDR RES TC1=0 TC2=0
RZ 2 3 0.349
D2 4 3 MDD2
.MODEL MDD2 D IS=2.5e-15 N=0.5
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 1.85e4
.MODEL MDRBV RES TC1=0.00098
D3 8 0 MDD2
IT 0 8 0.001
L  7 2 1e-15
.ENDS SA15A
**--------------------------------------------------
** Creation: Dec.-16-2008   Rev.: 1.0
** Fairchild Semiconductor

